US04694012
1,4-Dihydro-2-methyl-4-(2-nitrophenyl)-6-[(3-pyridylmethoxy)methyl]pyridine-3,5-dicarboxylic acid diethyl ester
A mixture of ethyl 3-aminocrotonate (1.3g, 0.01 mol), ethyl 3-oxo-4-(3-pyridylmethoxy) butanoic acid (2.4 g 0.01 mol) and 2-nitrobenzaldehyde (1.56g, 0.01 m) in ethanol (50 ml) was refluxed for 23 hours. The solvent was removed under reduced pressure and the residue treated with diethyl ether and extracted with 2N hydrochloric acid. The separated aqueous phase was extracted with chloroform and the chloroform phase separated and evaporated. The residue was treated with acetone and left overnight. Solid material which separated was filtered off and discarded. The acetone solution was evaporated, treated with ammonia solution and extracted with chloroform (×3). The combined chloroform extracts were washed with water, dried (MgSO4) and evaporated to give an oil. This was dissolved in ethyl acetate and treated with maleic acid (1 g). A little of the solvent was evaporated and acetone and diethyl ether added. The maleic salt of the title compound crystallised and was collected (2.6 g) mp 133-135° C.

reactant | ethyl 3-aminocrotonate | 0.01 mol, 1.3g | N\C(=C/C(=O)OCC)\C | C6H11NO2
reactant | ethyl 3-oxo-4-(3-pyridylmethoxy) butanoic acid | 0.01 mol, 2.4 g | C(C)C(C(=O)O)C(COCC=1C=NC=CC1)=O | C12H15NO4
reactant | 2-nitrobenzaldehyde | 1.56g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | maleic acid | 1 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,4-Dihydro-2-methyl-4-(2-nitrophenyl)-6-[(3-pyridylmethoxy)methyl]pyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)COCC=1C=NC=CC1)C | C25H27N3O7
